US08536175B2
Step 18.1: Diethyl-(2-nitro-1H-imidazol-4-ylmethyl)-amine
Formaldehyde (36% in H2O, 1.0 mL, 13.3 mmol, 1.5 equiv) and diethyl amine (0.92 mL, 8.8 mmol) were added sequentially to a suspension of 2-nitro-imidazole (1 g, 8.8 mmol) in EtOH (20 mL). The resulting mixture was heated to reflux for 18 h, allowed to cool to rt, and concentrated. Trituration of the residue in Et2O afforded an impure sample of the title compound which was used without further purification.

reactant | Formaldehyde | 13.3 mmol, 1.0 mL, 1.5 equiv | C=O | CH2O
reactant | diethyl amine | 8.8 mmol, 0.92 mL | C(C)NCC | C4H11N
reactant | 2-nitro-imidazole | 8.8 mmol, 1 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
solvent | EtOH | 20 mL | CCO | C2H6O
product | Diethyl-(2-nitro-1H-imidazol-4-ylmethyl)-amine | C(C)N(CC=1N=C(NC1)[N+](=O)[O-])CC | C8H14N4O2
